US05281571
To a solution of 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde (4.5 g, 13.2 mmole) in 40 ml of acetone was added 13 ml (26 mmole) of Jones' reagent. The solution was stirred at ambient temperature for 2 hours and poured into 400 ml of water. The resulting solid was filtered and air dried overnight to afford 4.5 g (96%) of 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluoro-benzoic acid as a white solid. An analytical sample was recrystallized from ether/hexanes; mp 179°-181° C.

reactant | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde | 13.2 mmole, 4.5 g | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C12H6Cl2F4N2O
reactant | Jones' reagent | 26 mmole, 13 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | 400 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluoro-benzoic acid | 4.5 g, 96% | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C12H6Cl2F4N2O2
